US08420651B2
8-Fluoro-3-iodo-1-(3-methoxy-3-methylbutyl)cinnolin-4(1H)-one
A mixture of 0.72 g of 8-fluoro-3-iodocinnolin-4(1H)-one and 0.48 ml of 3-methoxy-3-methylbutan-1-ol in 20 ml of THF is cooled to 5° C., 0.97 g of triphenylphosphine is added and then 0.65 g of diethyl azodicarboxylate is slowly added, and the mixture is left stirring overnight at AT. The reaction mixture is concentrated under vacuum and the residue is chromatographed on silica gel, elution being carried out with the cyclohexane/AcOEt mixture (75/25; v/v) and then with AcOEt. The expected compound is obtained.

reactant | 8-fluoro-3-iodocinnolin-4(1H)-one | 0.72 g | FC=1C=CC=C2C(C(=NNC12)I)=O | C8H4FIN2O
reactant | 3-methoxy-3-methylbutan-1-ol | 0.48 ml | COC(CCO)(C)C | C6H14O2
reactant | triphenylphosphine | 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.65 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-Fluoro-3-iodo-1-(3-methoxy-3-methylbutyl)cinnolin-4(1H)-one | FC=1C=CC=C2C(C(=NN(C12)CCC(C)(C)OC)I)=O | C14H16FIN2O2
